US06919343B2
Methyl 4′-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-3-fluoro-1,1′-biphenyl-2-carboxylate (0.25 g, 0.59 mmol) was dissolved in 6.0 mL of anhydrous ethanol. Pd/C (90 mg) was then added and the nitrogen atmosphere was exchanged for hydrogen. The reaction mixture was allowed to stir for 72 hours. After filtration though celite, the ethanol was removed under reduced pressure to yield 0.15 grams of methyl 4′-(1-amino-1-methylethyl)-3-fluoro-1,1′-biphenyl-2-carboxylate which was of sufficient purity to use directly in the next reaction.

reactant | Methyl 4′-(1-{[(benzyloxy)carbonyl]amino}-1-methylethyl)-3-fluoro-1,1′-biphenyl-2-carboxylate | 0.59 mmol, 0.25 g | C(C1=CC=CC=C1)OC(=O)NC(C)(C)C1=CC=C(C=C1)C=1C(=C(C=CC1)F)C(=O)OC | C25H24FNO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 90 mg | [Pd] | Pd
product | methyl 4′-(1-amino-1-methylethyl)-3-fluoro-1,1′-biphenyl-2-carboxylate | 0.15 grams | NC(C)(C)C1=CC=C(C=C1)C=1C(=C(C=CC1)F)C(=O)OC | C17H18FNO2
